US07538138B2
(2R)-1-(2-{5-[(3-fluorophenyl)thio]-1-benzofuran-2-yl}ethyl)-2-methylpyrrolidine
(2R)-1-[2-(5-Bromo-1-benzofuran-2-yl)ethyl]-2-methylpyrrolidine is treated with 2 molar equivalents of tert-butyl lithium and bis(3-fluorophenyl)disulfide (Lancaster synthesis Ltd., Chemical Abstracts number 63930-17-6) in tetrahydrofuran at −78° C. to provide the title compound.

reactant | (2R)-1-[2-(5-Bromo-1-benzofuran-2-yl)ethyl]-2-methylpyrrolidine | BrC=1C=CC2=C(C=C(O2)CCN2[C@@H](CCC2)C)C1 | C15H18BrNO
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | bis(3-fluorophenyl)disulfide | FC=1C=C(C=CC1)SSC1=CC(=CC=C1)F | C12H8F2S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2R)-1-(2-{5-[(3-fluorophenyl)thio]-1-benzofuran-2-yl}ethyl)-2-methylpyrrolidine | FC=1C=C(C=CC1)SC=1C=CC2=C(C=C(O2)CCN2[C@@H](CCC2)C)C1 | C21H22FNOS
